US07381719B2
Part B: 5-(2-Fluoro-4-formylphenoxy)pyridine-2-carboxamide
Take up 5-(4-[1,3]dioxolan-2-yl-2-fluorophenoxy)pyridine-2-carboxamide (0.316 g, 1.04 mmol) in 88% formic acid (5.2 mL). Stir at room temperature for 1.25 hours before diluting with water. Extract with dichloromethane (2×50 mL). Wash the organic layer with brine (1×25 mL), dry over Na2SO4, filter and concentrate to give the title compound (0.269 g, 99.6%): TOF MS ES+ 261.1 (M+H)+, HRMS calcd for C13H10N2O3F 261.0675 (M+H)+, found 261.0682, time 0.37 min; HPLC [YMC-Pack Pro C-18 (15×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 20-99% over 23 min], tR 9.0 min, 100% purity.

reactant | 5-(4-[1,3]dioxolan-2-yl-2-fluorophenoxy)pyridine-2-carboxamide | 1.04 mmol, 0.316 g | O1C(OCC1)C1=CC(=C(OC=2C=CC(=NC2)C(=O)N)C=C1)F | C15H13FN2O4
solvent | formic acid | 5.2 mL | C(=O)O | CH2O2
solvent | water | O | H2O
product | 5-(2-Fluoro-4-formylphenoxy)pyridine-2-carboxamide | 0.269 g, 99.6% | FC1=C(OC=2C=CC(=NC2)C(=O)N)C=CC(=C1)C=O | C13H9FN2O3
